US05025036
A mixture of 1.20 (4.0 mmol) of 1-(6-bromohexyl)-2,3-dimethoxybenzene, 1.00 g (4.0 mmol) of 3,5-dipropyl-4-hydroxybenzoic acid ethyl ester, 1.10 g (8 mmol) of potassium carbonate and 0.6 g (4 mmol) of sodium iodide in 35 mL of acetone was stirred at reflux for 47 hours. Workup and purification as in Example 16 gave 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3,5-dipropylbenzoic acid ethyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-dimethoxybenzene | BrCCCCCCC1=C(C(=CC=C1)OC)OC | C14H21BrO2
reactant | 3,5-dipropyl-4-hydroxybenzoic acid ethyl ester | 4.0 mmol, 1.00 g | C(C)OC(C1=CC(=C(C(=C1)CCC)O)CCC)=O | C15H22O3
reactant | potassium carbonate | 8 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4 mmol, 0.6 g | [I-].[Na+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3,5-dipropylbenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)CCC)OCCCCCCC1=C(C(=CC=C1)OC)OC)CCC)=O | C29H42O5
